US06150521
2.07 g (0.01 mol) of benzofuran-2,3-dione 2-{O-[2-(tetrahydropyran-2-yloxy)-ethyl]-oxime} (XIV-2) are dissolved in 12 ml of methanol and stirred at room temperature with 100 mg of acidic ion exchanger resin for 16 hours. 40 ml of methanol are added to the reaction mixture which is then warmed until the crystals have dissolved. The acidic ion exchanger resin is filtered off, the filtrate is concentrated and the residue is recrystallized from 10 ml of toluene. 1.69 g (81.5% of theory) of crystalline benzofuran-2,3-dione 2-[O-(2-hydroxy-ethyl)-oxime] (VII-1) of melting point 110-111° C. are obtained.

reactant | benzofuran-2,3-dione 2-{O-[2-(tetrahydropyran-2-yloxy)-ethyl]-oxime} | 0.01 mol, 2.07 g | O1C(CCCC1)OCCON=C1OC2=C(C1=O)C=CC=C2 | C15H17NO5
solvent | methanol | 12 ml | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
product | benzofuran-2,3-dione 2-[O-(2-hydroxy-ethyl)-oxime] | 1.69 g, 81.5% | OCCON=C1OC2=C(C1=O)C=CC=C2 | C10H9NO4
